### PR TITLE
fix(Util/CountHeartbeats): move elaboration in #count_heartbeats inside a namespace

### PR DESCRIPTION
**Pull request by joneugster**
Currently the `#count_heartbeat` linter reported the heartbeats until it concluded `error: [declaration] has already been declared` instead of re-elaborating the declaration.

---

[Zulip report](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/count_heartbeats.20for.20all.20declarations.20in.20a.20file.3F/near/496303652)

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Util/CountHeartbeats.lean [hunk 1]
```diff
@@ -221,8 +222,9 @@ def countHeartbeatsLinter : Linter where run := withSetOptionIn fun stx ↦ do
   let mut msgs := #[]
   if [``Lean.Parser.Command.declaration, `lemma].contains stx.getKind then
     let s ← get
-    elabCommand (← `(command| #count_heartbeats in $(⟨stx⟩)))
-    msgs := (← get).messages.unreported.toArray.filter (·.severity != .error)
```
Comment (joneugster) [inline Mathlib/Util/CountHeartbeats.lean:225]: note: I dropped `.filter (·.severity != .error)` because I don't see the necessity anymore and it was part of what hid the bug from the user initially.

Comment (adomani) [reply Mathlib/Util/CountHeartbeats.lean:225]: Agreed: before, it was meant to drop the error mentioning that the declaration already existed.  Now, it will highlight the few edge cases where there is an actual error!

File: MathlibTest/CountHeartbeats.lean [hunk 2]
```diff
@@ -71,10 +71,33 @@ example : True := trivial
...
+theorem XX : (3 : ℤ) + 4 + 5 + a - a = 12 := by
+  ring
+
 end using_linter_option
+
+
+/-
+Test: `#count_heartbeats in` and `set_option linter.countHeartbeats true` should return
+the same result.
+TODO: why is is one hearbeat difference in the second example?
```
[the remark this answers is not in the document]
Comment (joneugster) [reply MathlibTest/CountHeartbeats.lean]: Thanks! I think I've found the found the answer, so I deleted this sentence:

The first declaration introduced `a` as auto-implicit variable while the second one already had this auto-implicit, which apparently takes one heartbeat. now they're identical.

File: MathlibTest/CountHeartbeats.lean [hunk 3]
```diff
@@ -44,12 +44,42 @@ example : True := trivial
...
+theorem a : True := trivial
+
+/-- info: 'b' used 56 heartbeats, which is less than the current maximum of 200000. -/
+#guard_msgs in
+variable (n : Nat) in
+open Lean in
+theorem b : n ≥ 0 := by
+  simp only [ge_iff_le, zero_le]
+
+-- -- Test that local namespaces work:
```
Comment (adomani) [inline MathlibTest/CountHeartbeats.lean:66]:
```suggestion
-- -- Test that local namespaces work (currently broken):
```
maybe?

**Review by adomani — COMMENTED** [review]
This looks good to me and certainly an improvement over the previous version: thanks!

I am happy to merge this.

bors d+

**Comment by adomani** [comment]
Sorry about the change of heart: I tried it out on the "obvious" file and it throws many more exceptions than I would like.

It is still an improvement over the previous version, but not yet good to go!

bors d-

**Comment by adomani** [comment]
(By the way, `bors d-` probably does nothing.  Out of curiousity, I'll try a different bors command, not because I think that you will merge this as is, but to see if it works!

bors delegate=[]
)

**Comment by adomani** [comment]
Oh well, a failed experiment.  :shrug:

**Comment by adomani** [comment]
So, since it has come down to finding which hack is most successful, one think that I would try is to "extend" the first `declId` that the syntax contains with an extra string.  Effectively, trying to elaborate `theorem A.B.C ...` as `theorem A.B.Ccount_heartbeats_linter ...`.

This is still not very robust, but, because it is not messing with the namespace, it may fail less often.  Recursive calls will likely still not work, and use the declaration that has just been added to the environment, but... nobody's perfect!

File: Mathlib/Util/CountHeartbeats.lean [hunk 4]
```diff
@@ -213,6 +212,21 @@ register_option linter.countHeartbeats : Bool := {
 
 namespace CountHeartbeats
 
+partial def Syntax.findAndModify (modify : Syntax → Syntax) : Syntax → Syntax
+  | stx@(Syntax.node _ ``Parser.Command.declId _) => modify stx
+  | Syntax.node info kind args => Syntax.node info kind (args.map (Syntax.findAndModify modify))
+  | stx => stx
+
+/-- Traverse the syntax and add a suffix "ₕₑₐᵣₜ" to any theorem name, i.e. to any
```
Comment (adomani) [inline Mathlib/Util/CountHeartbeats.lean:220]: :heart: I love it!

File: MathlibTest/CountHeartbeats.lean [hunk 5]
```diff
@@ -1,4 +1,4 @@
-import Mathlib.Tactic.Ring
+import Mathlib.Util.CountHeartbeats
```
Comment (adomani) [inline MathlibTest/CountHeartbeats.lean:1]: Thanks for reducing the imports!  I was very unhappy about the earlier dependencies.

File: Mathlib/Util/CountHeartbeats.lean (hunk 4 above)
Comment (adomani) [reply Mathlib/Util/CountHeartbeats.lean:220]: By the way, you might be able to use [Lean.Syntax.foldArgs](https://leanprover-community.github.io/mathlib4_docs/Lean/Parser/Basic.html#Lean.Syntax.foldArgs) here.

Comment (joneugster) [reply Mathlib/Util/CountHeartbeats.lean:220]: maybe, although I get confused by the signature `folgArgs (s : Syntax) (f : Syntax → β → β) (b : β) : β`.

Comment (adomani) [reply Mathlib/Util/CountHeartbeats.lean:220]: Looking at this again, I am not sure how to use `foldArgs` in this case either: you are also modifying the syntax "in-place", whereas I was thinking of accumulating the `declId` first (e.g. in an `Array`).

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

**Comment by joneugster** [comment]
Returning to this, I'm not fully aware of all the discussion linked at https://github.com/leanprover-community/mathlib4/issues/23905 but it looks like the current implementation of `#count_heartbeats` is broken on `master` and it seems to work with this fix, so I'm putting this back on the queue.

(If there is a better re-implementation of the command, I'd be happy to review that and close this fix once a reimplementation has been merged.)
